US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (2.65 g, 5.58 mmol) and acetic anhydride (0.79 ml, 8.37 mmol), the procedure of Inventive Example 94 was repeated to obtain 2.44 g (84.3%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 5.58 mmol, 2.65 g | NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | acetic anhydride | 8.37 mmol, 0.79 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 2.44 g, 84.3% | C(C)(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C30H32FN3O4
